### PR TITLE
fix: use pi_congr instead of forall_congr; deprecate the latter

### LINKED ISSUE #7507: forall_congr should be generalized from Prop to Sort
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

`forall_congr` currently has type

```
theorem forall_congr {α : Sort u} {p q : α → Prop} (h : ∀ a, p a = q a) : (∀ a, p a) = (∀ a, q a)
```

but could (should?) have type

```
theorem forall_congr {α : Sort u} {p q : α → Sort v} (h : ∀ a, p a = q a) : (∀ a, p a) = (∀ a, q a)
```

in order to accept more proofs using `conv` mode, which uses this theorem.

### Steps to Reproduce

```
axiom ID : Type → Type
axiom ID.eq {α} : ID α = α
example : ((x:Type) → ID x) = ((x : Type) → x) := by
  conv => lhs; ext; apply ID.eq
```
[live.lean](https://live.lean-lang.org/#project=lean-nightly&codez=IYDwlg9gtgBAkgERgLhgFQJ4AcCmNBJhOtjgFCiSyIB0OAjjAN6CNwAL4rxJMwC8MTJOEMChYANnlQAKSSGSZcASgIcYIJb2kh28nEsJqUvAEYYSMGAGMIAOwBuPAHwxRACwDOAbhiCALl+BYYhgcNLQkJAC0ETA+LjgQAE44sABmicCiogD6VtYA5gmMXKgAyok+MACubAxYMPSoXIQACgkQWGySLuyAAEQwwAA0MHXAPPX9SlJ9g8MTY5LTQ/TAk9wksfFJsABCOD4+OAlUaQkZ2bkFRexlCRXVjHUNfMo3Fbad3aiLs6O8y5MwBb9IYjdSA77/QxmQEpSrWXwwT6zP5KQAdpDAEilROFBMIxBJATI5MQ9CoDBoZNoScoDMhjKZzAEgjBdvtDsd0pkcjYCtCmaJgtQ6EA)

**Expected behavior:** No error

**Actual behavior:** The following error:

```
application type mismatch
  @forall_congr Type fun x => ID x
argument has type
  Type → Type
but function has type
  ∀ {p q : Type → Prop}, (∀ (a : Type), p a = q a) → (∀ (a : Type), p a) = ∀ (a : Type), q a
```

By comparison, the following works:

```
-- theorem forall_congr {α : Sort u} {p q : α → Prop} (h : ∀ a, p a = q a) : (∀ a, p a) = (∀ a, q a) :=
theorem Better.forall_congr {α : Sort u} {p q : α → Sort v} (h : ∀ a, p a = q a) : (∀ a, p a) = (∀ a, q a) :=
  (funext h : p = q) ▸ rfl

example : ((x:Type) → ID x) = ((x : Type) → x) := by
  apply Better.forall_congr
  apply ID.eq
```

### Versions

"4.19.0-nightly-2025-03-15"

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by sgraf812**
This PR generalizes the `conv` and `simp` tactics to apply `pi_congr` instead of `forall_congr`. The test case for #7507 has examples that work now, but only worked at universe `v=0` before.

Since there are no more remaining uses of `forall_congr`, it is now deprecated.

Closes #7507.

### CODE REVIEW

File: src/Init/SimpLemmas.lean [hunk 1]
```diff
@@ -45,9 +45,13 @@ theorem implies_dep_congr_ctx {p₁ p₂ q₁ : Prop} (h₁ : p₁ = p₂) {q₂
 theorem implies_congr_ctx {p₁ p₂ q₁ q₂ : Prop} (h₁ : p₁ = p₂) (h₂ : p₂ → q₁ = q₂) : (p₁ → q₁) = (p₂ → q₂) :=
   implies_dep_congr_ctx h₁ h₂
 
+-- TODO: Remove the following theorem after the next stage0 update
```
Comment (nomeata) [inline src/Init/SimpLemmas.lean:48]: Do we need a deprecation cycle? Is this used downstream?

Comment (TwoFX) [reply src/Init/SimpLemmas.lean:48]: Yes, it's used in mathlib!

Comment (b-mehta) [reply src/Init/SimpLemmas.lean:48]: It's used a few times in mathlib (my count is four files), in three of these it appears that the proof is _simpler_ if `forall_congr'` was used instead. Particularly considering the sequence of lemmas after `forall_congr'`, I believe the best final outcome is for the existing `forall_congr` to be _replaced_ by `forall_congr'` (and I have no opinion on how the deprecation / edit process should go, or how this should be actually executed).

Comment (sgraf812) [reply src/Init/SimpLemmas.lean]: So what else needs to be done to initiate a deprecation cycle besides adding a `@[deprecated]` attribute?
Is this PR good to go or should I rebase on `nightly-with-mathlib`?

Comment (b-mehta) [reply src/Init/SimpLemmas.lean]: > as specialised as `forall_congr'` (which IIRC works at `Prop -> Prop`).

The only difference between `forall_congr` and `forall_congr'` is that the former uses `Eq` while the latter uses `Iff`, in both input and output: the `p` and `q` inputs are at the same level of generality. Note that there's also `exists_congr`, in fact there's a series of ten lemmas starting with this one https://leanprover-community.github.io/mathlib4_docs/Init/PropLemmas.html#forall_congr', all with the same basic formulation but with a single naming discrepancy in `forall_congr'`

Comment (sgraf812) [reply src/Init/SimpLemmas.lean]: Ah, of course, that makes sense. Then that still leaves `forall_congr` an instance of `pi_congr`. Deprecating the former to free up the name for `forall_congr'` seems to be The Right Thing.

**Comment by sgraf812** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/78fb34d67805655041e2e8e2f623742a24629894?reference=2065c90062893508ded6433d2e2d81c33af4e761) for 78fb34d67805655041e2e8e2f623742a24629894 against 2065c90062893508ded6433d2e2d81c33af4e761 are in. There are significant results. @sgraf812

- 🟥 `build` exited with code **1**
- 🟥 `other` exited with code **1**

No significant changes detected.

**Comment by sgraf812** [comment]
Argh, apparently I had enabled auto-merge back in Mar 2025. I'll revert in #14515 and re-open for review in #14516.
